US04618712
1,6-Bis-(N-acetyl-N-cyanoamino)-hexane
106.1 g (1.0 mol) of sodium acetylcyanamide and 77.5 g (0.5 mol) of 1,6-dichlorohexane are reacted in 750 ml of dimethylformamide at 146°-147° C. for 8 hours, the mixture is then filtered with suction and the filtrate is concentrated on a rotary evaporator at 80° C. in vacuo. 125 g (99.9% of theory) of a crude product, which is recrystallised from a mixture of acetone/diisopropyl ether (3:5), are obtained. The yield of pure substance is 58.8 g (46.9% of theory) and the product has a melting point of 59°-61° C.

reactant | sodium acetylcyanamide | 1.0 mol, 106.1 g | C(C)(=O)NC#N.[Na]
reactant | 1,6-dichlorohexane | 0.5 mol, 77.5 g | ClCCCCCCCl | C6H12Cl2
solvent | dimethylformamide | 750 ml | CN(C=O)C | C3H7NO
product | 1,6-Bis-(N-acetyl-N-cyanoamino)-hexane | C(C)(=O)N(C#N)CCCCCCN(C(C)=O)C#N | C12H18N4O2
